US04438111
2-(1-Cyclohexenyl)thiophene
n-Butyllithium (40.7 ml, 1.5 M) was added dropwise to a stirred solution of thiophene (5 g) in dry ether (50 ml) and the mixture heated under reflux for 30 min. After cooling to -78°, cyclohexanone (6.21 ml) in dry ether (30 ml) was added dropwise and the temperature allowed to rise to ambient. After 1h 2N hydrochloric acid (80 ml) was added and stirring continued for 16h. The organic layer was separated and the aqueous layer extracted with ether (2×40 ml). The combined extracts were washed with water, dried (MgSO4), filtered and evaporated to give an oil, which was dissolved in benzene (50 ml) and heated under reflux in the presence of PTSA for 0.75h. the cooled solution was washed twice with 8% NaHCO3 solution and the aqueous solution extracted with ether (2×40 ml), dried (MgSO4) filteed and evaporated to give the title compound as an oil (9.83 g). TLC(F) Rf 0.73

reactant | n-Butyllithium | 1.5 M, 40.7 ml | C(CCC)[Li]
reactant | thiophene | 5 g | S1C=CC=C1 | C4H4S
reactant | cyclohexanone | 6.21 ml | C1(CCCCC1)=O | C6H10O
reactant | hydrochloric acid | 80 ml | Cl | ClH
reactant | PTSA | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-(1-Cyclohexenyl)thiophene | 9.83 g | C1(=CCCCC1)C=1SC=CC1 | C10H12S
